US05541178
The above nitro compound was reduced by the method described in example 6, for the reduction of allyl 2-methyl-6-nitrobenzoate, except that the solvent used was ethanol, to give allyl 3-allyloxy-2-aminobenzoate.

reactant | allyl 2-methyl-6-nitrobenzoate | CC1=C(C(=O)OCC=C)C(=CC=C1)[N+](=O)[O-] | C11H11NO4
solvent | ethanol | C(C)O | C2H6O
product | allyl 3-allyloxy-2-aminobenzoate | C(C=C)OC=1C(=C(C(=O)OCC=C)C=CC1)N | C13H15NO3
